US05175157
2-[(N-(4-(2,4-Dichloro-phenoxy)-butyl)-piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride
Prepared from 2-[(piperidin-3-yl)-methyl]-6,7-dimethyoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 1-chloro-4-(2,4-dichlorophenoxy)-butane analogously to Example 1.

reactant | 2-[(piperidin-3-yl)-methyl]-6,7-dimethyoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1CC(CCC1)CN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C17H24N2O3
reactant | 1-chloro-4-(2,4-dichlorophenoxy)-butane | ClCCCCOC1=C(C=C(C=C1)Cl)Cl | C10H11Cl3O
product | 2-[(N-(4-(2,4-Dichloro-phenoxy)-butyl)-piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | Cl.ClC1=C(OCCCCN2CC(CCC2)CN2C(C3=CC(=C(C=C3CC2)OC)OC)=O)C=CC(=C1)Cl | InChI=1S/C27H34Cl2N2O4.ClH/c1-33-25-14-20-9-12-31(27(32)22(20)16-26(25)34-2)18-19-6-5-11-30(17-19)10-3-4-13-35-24-8-7-21(28)15-23(24)29;/h7-8,14-16,19H,3-6,9-13,17-18H2,1-2H3;1H
